US04564613
2-Oxo-3-ethylenedioxy-6-phenyl-8-methyl-2,3,6,7,8,9-hexahydro-1H-pyrido[4,3-g]indole
100 ml of dichloroethane are added to 20.6 g (0.0624 mol) of 8-methyl-6-phenyl-6,7,8,9-tetrahydro-1H-pyrido[4,3-g]indole-2,3-dione, 21 ml (0.374 mol) of ethylene glycol and 0.336 g (0.00176 mol) of toluene-4-sulphonic acid monohydrate, with stirring, and the mixture is heated under reflux for 3.5 hours, using a water separator. Ice is added to the reaction mixture and the mixture is brought to pH 6.8 with aqueous KHCO3 solution. The mixture is extracted with CH2Cl2, the CH2Cl2 phase is washed with H2O and dried over Na2SO4 and the solvent is stripped off in a rotary evaporator. The residue is chromatographed on Al2O3 (aluminum oxide from E. Merck, Darmstadt) using an eluent mixture of ethyl acetate and MeOH (20:0.2). After trituration with ethyl acetate/petroleum ether, the substance becomes crystalline. It is dried over P2O5 at 80° C. in vacuo.

reactant | dichloroethane | 100 ml | ClC(C)Cl | C2H4Cl2
reactant | 8-methyl-6-phenyl-6,7,8,9-tetrahydro-1H-pyrido[4,3-g]indole-2,3-dione | 0.0624 mol, 20.6 g | CN1CC=2C(=CC=C3C(C(NC23)=O)=O)C(C1)C1=CC=CC=C1 | C18H16N2O2
reactant | ethylene glycol | 0.374 mol, 21 ml | C(CO)O | C2H6O2
reactant | toluene-4-sulphonic acid monohydrate | 0.00176 mol, 0.336 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | water | O | H2O
product | 2-Oxo-3-ethylenedioxy-6-phenyl-8-methyl-2,3,6,7,8,9-hexahydro-1H-pyrido[4,3-g]indole | O=C1NC2=C3C(=CC4=C2C1OCCO4)C(CN(C3)C)C3=CC=CC=C3 | C20H20N2O3
